US04673692
3,5-di-t-butyl-4-hydroxybenzophenone oxime and propionyl chloride were treated in the same way as in Example 3 to obtain 3,5-di-t-butyl-4-hydroxybenzophenone O-propionyloxime.

reactant | 3,5-di-t-butyl-4-hydroxybenzophenone oxime | C(C)(C)(C)C=1C=C(C(C2=CC=CC=C2)=NO)C=C(C1O)C(C)(C)C | C21H27NO2
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
product | 3,5-di-t-butyl-4-hydroxybenzophenone O-propionyloxime | C(CC)(=O)ON=C(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C1=CC=CC=C1 | C24H31NO3
